US04035512
In 20 ml. of methanol is dissolved 200 mg. of trans-2-amino-6-benzyloxy-5-cyano-1-hydroxy-1,2,3,4-tetrahydronaphthalene hydrochloride, followed by the addition of 30 mg. of 5% palladium-on-carbon. The mixture is agitated in hydrogen streams at room temperature for 30 minutes. The catalyst is filtered off and the filtrate is concentrated under reduced pressure. The residue is recrystallized from methanol-ethyl acetate. The procedure yields white crystals of trans-2-amino-5-cyano-1,6-dihydroxy-1,2,3,4-tetrahydronaphthalene hydrochloride. Yield 136 mg.; melting point: 259°-261° C(decomp.).

reactant | methanol | CO | CH4O
reactant | trans-2-amino-6-benzyloxy-5-cyano-1-hydroxy-1,2,3,4-tetrahydronaphthalene hydrochloride | Cl.N[C@H]1[C@@H](C2=CC=C(C(=C2CC1)C#N)OCC1=CC=CC=C1)O
solvent | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
product | trans-2-amino-5-cyano-1,6-dihydroxy-1,2,3,4-tetrahydronaphthalene hydrochloride | Cl.N[C@H]1[C@@H](C2=CC=C(C(=C2CC1)C#N)O)O | InChI=1S/C11H12N2O2.ClH/c12-5-8-6-1-3-9(13)11(15)7(6)2-4-10(8)14;/h2,4,9,11,14-15H,1,3,13H2;1H/t9-,11-;/m1./s1
